US06143763
A solution of 6-(3-chloropropoxy)carbostyril (5.0 g) and 3-amino-1-propanol (24 ml) in methanol (25 ml) is heated at 100° C. for 4 hours in an autoclave. The mixture is concentrated under reduced pressure to remove the solvent, and the residue is purified by silica gel column chromatography (solvent; methylene chloride:methanol:aqueous ammonia=70:10:1), and recrystallized from methanol-diethyl ether to give 6-[3-(3-hydroxypropyl)aminopropoxy]carbostyril(4.4 g) as a white powder.

reactant | 6-(3-chloropropoxy)carbostyril | 5.0 g | ClCCCOC=1C=C2C=CC(NC2=CC1)=O | C12H12ClNO2
reactant | 3-amino-1-propanol | 24 ml | NCCCO | C3H9NO
solvent | methanol | 25 ml | CO | CH4O
product | 6-[3-(3-hydroxypropyl)aminopropoxy]carbostyril | 4.4 g | OCCCNCCCOC=1C=C2C=CC(NC2=CC1)=O | C15H20N2O3
